US05843957
(b) Preparation of ethyl 1-methyl-4-(2-chlorophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylate
To a solution of ethyl 4-(2-chlorophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylate (4.50 g, 13.7 mmol) in N,N-dimethylformamide (50 ml) was added sodium hydride (60% oily, 547 mg, 13.7 mg) at room temperature, and the mixture was stirred for 0.5 hour. To the mixture was added methyl iodide (1.9 g, 13.7 mmol) at 0° C. to 5° C., and the mixture was stirred at the same temperature for 0.5 hour, and then stirred at room temperature for five hours. The mixture was poured into water, and extracted with ethyl acetate. The extract was washed with water, washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound (4.60 g, 13.4 mmol), which was used without further isolation in the subsequent reaction.

reactant | ethyl 4-(2-chlorophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylate | 13.7 mmol, 4.50 g | ClC1=C(C=CC=C1)C1=C(C(NC2=NC=CC=C12)=O)C(=O)OCC | C17H13ClN2O3
reactant | sodium hydride | 547 mg | [H-].[Na+]
reactant | methyl iodide | 13.7 mmol, 1.9 g | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 1-methyl-4-(2-chlorophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylate | 13.4 mmol, 4.60 g | CN1C(C(=C(C2=CC=CN=C12)C1=C(C=CC=C1)Cl)C(=O)OCC)=O | C18H15ClN2O3
